US05753679
0.482 g (0.0025 mol) of 1-benzyl-4-hydroxypiperidine and 0.62 ml (0.0045 mol) of triethylamine were dissolved in 20 ml of toluene and treated with the 4-bromo-2-nitro-benzoyl chloride obtained under a) dissolved in 5 ml of toluene. The mixture was boiled at reflux for 6 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:7 and 1:4). 0.3 g (28%) of 1-benzyl-piperidin-4-yl 4-bromo-2-nitro-benzoate was obtained as a brown oil.

reactant | 1-benzyl-4-hydroxypiperidine | 0.0025 mol, 0.482 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.0045 mol, 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-nitro-benzoyl chloride | BrC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3BrClNO3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 4-bromo-2-nitro-benzoate | 0.3 g, 28% | BrC1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C19H19BrN2O4
